US05298652
To 2.98 g (6.9 mmol) of 3-(octadecyloxy)-alpha-oxobenzeneacetic acid methyl ester in 200 ml of hot methanol was added 7.6 ml (7.6 mmol) of 1N NaOH. The solution was stirred at reflux for 5 minutes and the solvent was then removed under reduced pressure. The residue was treated with water and 15 ml of 1N HCl and the product was extracted with ethyl acetate. The dried extract was concentrated to a solid which was recrystallized form acetone-hexane to give 2.5 g (88% yield, mp 77°-79°) of 3-(octadecyloxy)-alpha-oxobenzeneacetic acid.

reactant | 3-(octadecyloxy)-alpha-oxobenzeneacetic acid methyl ester | 6.9 mmol, 2.98 g | COC(C(C1=CC(=CC=C1)OCCCCCCCCCCCCCCCCCC)=O)=O | C27H44O4
reactant | NaOH | 7.6 mmol, 1N, 7.6 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 3-(octadecyloxy)-alpha-oxobenzeneacetic acid | 2.5 g, 88% yield | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C=CC1)C(C(=O)O)=O | C26H42O4
